US07420001B2
To 174 mg of 4-furan-3-yl-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester was added 4 mL of TFA/dichloromethane (1:1). The solution was stirred at room temperature for 2 h. The solvents were removed under vacuum and the residue was triturated with ether. Filtration gave 124 mg of of 4-furan-3-yl-3-methyl-benzofuran-2-carboxylic acid as a white solid.

reactant | 4-furan-3-yl-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 174 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)C2=COC=C2 | C18H18O4
reactant | TFA dichloromethane | 4 mL | C(=O)(C(F)(F)F)O.ClCCl
product | 4-furan-3-yl-3-methyl-benzofuran-2-carboxylic acid | O1C=C(C=C1)C1=CC=CC2=C1C(=C(O2)C(=O)O)C | C14H10O4
